US06075029
First, (R)-5-acetoxy-1-iodohexane was prepared in the following manner. A solution of (R)-5-acetoxy-1-chlorohexane (4.80 g:26.89 mmol) was added to sodium iodide (5.39 g:36 mmol) in a round bottomed flask fitted with magnetic stirrer bar and a reflux condenser and refluxed for 12 hrs with stirring. Acetone was removed under reduced pressure, The crude product was partitioned between ethyl acetate (50 ml) and water layer (60 ml). The organic layer was washed with 10% sodium thiosulphate solution followed by water (20 l), dried over anhydrous Mg SO4 and concentrated under reduced pressure. Yield=7 g (96%)

reactant | (R)-5-acetoxy-1-chlorohexane | 26.89 mmol, 4.80 g | C(C)(=O)O[C@@H](CCCCCl)C | C8H15ClO2
reactant | sodium iodide | 36 mmol, 5.39 g | [I-].[Na+]
product | (R)-5-acetoxy-1-iodohexane | C(C)(=O)O[C@@H](CCCCI)C | C8H15IO2
